US06573293B2
2,4-Dimethyl-5-(2-oxo-6-phenyl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-3-carboxylic Acid (3-imidazol-1-ylpropyl)amide
6-Phenyl-1,3-dihydroindol-2-one (8 mg, 0.04 mmol) was condensed with 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (3-imidazol-1-ylpropyl)amide (10 mg) to give 7.3 mg (43%) of the title compound as an orange solid.

reactant | 6-Phenyl-1,3-dihydroindol-2-one | 0.04 mmol, 8 mg | C1(=CC=CC=C1)C1=CC=C2CC(NC2=C1)=O | C14H11NO
reactant | 5-formyl-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (3-imidazol-1-ylpropyl)amide | 10 mg | N1(C=NC=C1)CCCNC(=O)C1=C(NC(=C1C)C=O)C | C14H18N4O2
product | 2,4-Dimethyl-5-(2-oxo-6-phenyl-1,2-dihydroindol-3-ylidenemethyl)-1H-pyrrole-3-carboxylic Acid (3-imidazol-1-ylpropyl)amide | 7.3 mg, 43% | N1(C=NC=C1)CCCNC(=O)C1=C(NC(=C1C)C=C1C(NC2=CC(=CC=C12)C1=CC=CC=C1)=O)C | C28H27N5O2
